US07361663B2
(R)-1-(tert-Butyloxycarbonyl)pyrrolidin-2-yl-acetic acid methyl ester (5.0 g, 20.6 mmol), prepared as described in EXAMPLE 1A, is treated with ethyl acetate saturated with HCl gas to give (R)-pyrrolidin-2-yl-acetic acid methyl ester hydrochloride as a white solid (3.62 g, 20.3 mmol) which is used directly in the next step. This material (4.69 g, 26.3 mmol) is treated with THF (85 mL) and a 1 M solution of lithium bis(trimethylsilyl)amide in THF (52.5 mL, 52.5 mmol) at −15° C. under nitrogen. After stirring 10 min at −15° C. a solution of 3-bromomethyl-benzonitrile (4.63 g, 23.8 mmol) in THF (30 mL) is added dropwise. The reaction mixture is stirred at −15° C. for an additional 30 min and then warmed to −5° C. for 30 min. The reaction is quenched with methanol and concentrated to dryness. The residue is taken up in methylene chloride and extracted with saturated bicarbonate (250 mL). The aqueous layer is washed with methylene chloride (2×); the organic layers are combined and washed with water, dried over sodium sulfate and concentrated to give the title compound as an amber oil (5.82 g, 22 mmol).

reactant | (R)-1-(tert-Butyloxycarbonyl)pyrrolidin-2-yl-acetic acid methyl ester | 20.6 mmol, 5.0 g | COC(C[C@@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C12H21NO4
reactant | HCl | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-pyrrolidin-2-yl-acetic acid methyl ester hydrochloride | 20.3 mmol, 3.62 g | Cl.COC(C[C@@H]1NCCC1)=O | InChI=1S/C7H13NO2.ClH/c1-10-7(9)5-6-3-2-4-8-6;/h6,8H,2-5H2,1H3;1H/t6-;/m1./s1
